US05214040
Preparation of 1-(2-ethoxyethyl)-2 {4-[4-(pyrrol-1-yl)butyl]homopiperazin-1-yl-methyl}benzimidazole
A mixture of 2.42 g (8 mmol) of 1-(2-ethoxyethyl)-2-(homopiperazin-1-yl-methyl)benzimidazole, 1.39 g (8.8 mmol) of 1-(4-chlorobutyl)pyrrole, 1.65 g (12 mmol) of potassium carbonate and 1.65 g (11 mmol) of sodium iodide in 40 ml of methyl ethyl ketone is refluxed for 16 hours. The mixture is cooled, filtered and the filtrate evaporated to dryness. The residue is taken up in chloroform and washed with water, dried, filtered and evaporated under vacuum. The resulting product is purified on a silica chromatographic column (eluent: chloroform-methanol 92:8) and 1.9 g (56%) of 1-(2-ethoxyethyl)-2-{4-[4-(pyrrol-1-yl)butyl]homopiperazin-1-yl-methyl}benzimidazole are obtained.

reactant | 1-(2-ethoxyethyl)-2-(homopiperazin-1-yl-methyl)benzimidazole | 8 mmol, 2.42 g | C(C)OCCN1C(=NC2=C1C=CC=C2)CN2CCNCCC2 | C17H26N4O
reactant | 1-(4-chlorobutyl)pyrrole | 8.8 mmol, 1.39 g | ClCCCCN1C=CC=C1 | C8H12ClN
reactant | potassium carbonate | 12 mmol, 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 11 mmol, 1.65 g | [I-].[Na+]
solvent | methyl ethyl ketone | 40 ml | C(C)C(=O)C | C4H8O
product | 1-(2-ethoxyethyl)-2 {4-[4-(pyrrol-1-yl)butyl]homopiperazin-1-yl-methyl}benzimidazole | C(C)OCCN1C(=NC2=C1C=CC=C2)CN2CCN(CCC2)CCCCN2C=CC=C2 | C25H37N5O
